US04220795
i. Diethyl-2-ethyl-2-(3-cyclohexylpropyl)-malonate
Sodium metal (3.16 g, 0.137 g/atom) was dispersed by heating with rapid stirring in 80 ml of dry xylene at 110° to 120° C. The mixture was cooled and the xylene was removed with a filter stick. Dry toluene (300 ml distilled from calcium hydride) was added thereto and followed by the addition of 28.17 g (0.149 mole) of diethyl ethylmalonate. This mixture was slowly heated to 150° C. 3-Cyclohexylpropyl-1-tosylate (28.3 g, 1.1956 mole; prepared by Example 10A) was dissolved in 80 ml of dry toluene. This solution was then added to the sodiodiethylethylmalonate above and the mixture was stirred at 150° C. for 10 hr. The mixture was cooled and poured into 500 ml of water. The phases were separated and the aqueous phase was extracted with 500 ml (2×250 ml) of ether. The ether extract was washed with 250 ml of saturated sodium chloride solution, dried over a anhydrous magnesium sulfate and filtered. The solvents were removed in vacuo. The product was distilled at reduced pressure to yield 19.4 g of the title compound having the following physical characteristics:

reactant | Sodium | 3.16 g | [Na] | Na
reactant | diethyl ethylmalonate | 0.149 mole, 28.17 g | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | sodiodiethylethylmalonate | [Na]C(C(=O)[O-])(C(=O)[O-])C(C)(CC)CC
reactant | water | 500 ml | O | H2O
reactant | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl-2-ethyl-2-(3-cyclohexylpropyl)-malonate | 19.4 g | C(C)OC(C(C(=O)OCC)(CCCC1CCCCC1)CC)=O | C18H32O4
